US06043248
1-Acetyl-isoquinoline (2.0 g, 11.7 mmole) is dissolved in 50 ml methanol in a 100 ml one neck round bottom flask at 0° C. The solution is treated portionwise with sodium borohydride (495 mg, 13.1 mmole) and the reaction mixture is stirred for 1 h at 0° C. The volatiles are removed in vacuo and the residue is partitioned between 1×50 ml 1N sodium hydroxide and 4×25 ml dichloromethane. The combined organics are dried over potassium carbonate and are concentrated in vacuo to a pale oil. The crude material is chromatographed over 100 g silica gel (230-400 mesh), eluting with 15% acetone/hexane, while collecting 22 ml fractions. Fractions 23-37 are combined and concentrated to afford 1.99 g (98%) of 1-(1-hydroxyethyl)-isoquinoline.

reactant | 1-Acetyl-isoquinoline | 11.7 mmole, 2.0 g | C(C)(=O)C1=NC=CC2=CC=CC=C12 | C11H9NO
reactant | sodium borohydride | 13.1 mmole, 495 mg | [BH4-].[Na+]
solvent | methanol | 50 ml | CO | CH4O
product | 1-(1-hydroxyethyl)-isoquinoline | 1.99 g, 98% | OC(C)C1=NC=CC2=CC=CC=C12 | C11H11NO
